US08809389B2
Synthesis of 5-(but-2-ynyloxy)-benzo[1.3]dioxole
A mixture of 7.0 g (0.05 moles) of 5-hydroxy-benzo[1.3]dioxole, 6.91 g (0.05 moles) of anhydrous potassium carbonate in ml 25 of acetone was added with 6.65 g (0.05 moles) of 1-bromo-2-butyne. The mixture was heated to reflux for 6 hrs. The mixture was then cooled to room temperature, filtered and the filtrate evaporated u.v (20° C./21 mbar). The residue was then purified on silica gel column (eluant n-hexane: ethyl acetate 3:1 v/v). A liquid product (6.1 g, 95% purity) was obtained whose NMR and MS analyses correspond to those of the aforementioned compound.

reactant | 5-hydroxy-benzo[1.3]dioxole | 0.05 moles, 7.0 g | OC1=CC2=C(OCO2)C=C1 | C7H6O3
reactant | potassium carbonate | 0.05 moles, 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-butyne | 0.05 moles, 6.65 g | BrCC#CC | C4H5Br
solvent | acetone | CC(=O)C | C3H6O
product | 5-(but-2-ynyloxy)-benzo[1.3]dioxole | C(C#CC)OC1=CC2=C(OCO2)C=C1 | C11H10O3
